Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Respiratory failure 

 
Major Surgical or Invasive Procedure:
___ - Intubation
 
History of Present Illness:
___ yo man w/ a history of metastatic renal cell carcinoma on 
axitinib (D1 ___ and nivolumab (C1D1 ___ and 
hypothyroidism who presents with worsening dyspnea and 
productive cough. Reportedly over the last 24 hours has felt 
increasingly short of breath, and his cough had worsened. Denies 
chest pain, fever, cough, chills, nausea, vomiting, diarrhea, 
abdominal pain. Reports he has never had shortness of breath 
this severe before. Noted to be short of breath in ___ 
clinic earlier this week and started on 40mg prednisone on 
___ for potential pneumonitis; his axitinib was held at that 
time.

In ED initial VS: 98.0 142 153/81 25 96% RA  

ED Exam: patient is tachycardic in the 140s, satting in the ___ 
with increased work of breathing though able to speak in full 
sentences.
Diffuse wheezing on exam and duo nebs given. Patient very 
anxious and Ativan trialed. Patient continues to have increased 
work of breathing. There is no note of hypoxia but he is 
intubated for increased work of breathing

Labs: WBC 19.9 w/ no bands, platelets 529, Cr0.6, tropX1 neg, 
BNP 759, lactate 12.7

Patient was given: nebs, 5L NS, versed/ketamine/fentanyl; for 
Abx, given cefepime/vanc/zosyn

Imaging notable for:  CTA- 
1. No evidence of pulmonary embolism.
2. Diffuse metastatic disease within the chest similar to chest 
CT performed 3 days earlier.
3. Significant interval progression of metastatic disease in the 
abdomen and pelvis with innumerable liver lesions, enlarged and 
increased lesions within bilateral kidneys, and increased 
retroperitoneal and pelvic lymphadenopathy.
4. No evidence of small-bowel obstruction.
5. Increased peripancreatic stranding and diffuse mesenteric 
stranding are new since ___.
6. New lytic osseous lesions as described above in L2 vertebral 
body, right iliac, and posterior left fourth rib.

Consults:  respiratory, urology for foley placement 

VS prior to transfer:  Tm 100.6, 110 119/79 26 100% Intubation 

On arrival to the MICU, he is intubated and sedated. Speaking 
with the family, they say that his cough had worsened over the 
last couple of days and was productive of yellowish, whitish 
sputum
 
Past Medical History:
Stage IV renal cell carcinoma with lung and bone metastatic
disease
 
Social History:
___
Family History:
no history of malignancy
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS:  per metavision
GENERAL: Intubated, sedated 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, wheezes ascultataed
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  WWP, no rashes
NEURO:  sedated
ACCESS:  IJ
LABS:  per OMR
MICROBIOLOGY:  per OMR
IMAGING:  per OMR

DISCHARGE EXAM:
===============
On exam, no spontaneous respirations, pupils fixed/dilated, no 
heart beat
detected. Time of death 20:56 on ___. Family at bedside.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 09:50AM BLOOD WBC-19.9*# RBC-5.17 Hgb-12.7* Hct-42.1 
MCV-81* MCH-24.6* MCHC-30.2* RDW-21.5* RDWSD-61.0* Plt ___
___ 09:51PM BLOOD Neuts-91.8* Lymphs-1.6* Monos-5.6 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-13.88* AbsLymp-0.24* 
AbsMono-0.85* AbsEos-0.00* AbsBaso-0.01
___ 09:50AM BLOOD Hypochr-OCCASIONAL Anisocy-2+ 
Poiklo-NORMAL Macrocy-NORMAL Microcy-1+ Polychr-1+
___ 09:50AM BLOOD ___ PTT-26.5 ___
___ 09:50AM BLOOD Plt Smr-HIGH Plt ___
___ 09:50AM BLOOD Glucose-108* UreaN-13 Creat-0.6 Na-130* 
K-5.8* Cl-90* HCO3-15* AnGap-31*
___ 09:50AM BLOOD ALT-42* AST-85* AlkPhos-374* TotBili-0.4
___ 09:50AM BLOOD Lipase-22
___ 09:50AM BLOOD cTropnT-<0.01
___ 09:50AM BLOOD proBNP-759*
___ 09:50AM BLOOD Albumin-3.1* Calcium-9.1 Phos-3.2 Mg-1.9
___ 05:07PM BLOOD Cortsol-17.6
___ 10:21AM BLOOD ___ pO2-44* pCO2-35 pH-7.34* 
calTCO2-20* Base XS--5
___ 10:05AM BLOOD Lactate-12.7*
___ 12:35PM BLOOD O2 Sat-88
___ 10:46PM BLOOD freeCa-1.06*

IMAGING:
========
___ CXR:
FINDINGS:  
  
Diffuse bilateral parenchymal opacities including discrete 
nodules are seen throughout the lungs compatible with patient's 
known metastatic disease. Given differences in technique, no 
obvious change noting that superimposed acute process could 
easily be obscured.  There is no pleural effusion. 
Cardiomediastinal silhouette is stable.  No acute osseous 
abnormalities. 
  
IMPRESSION:  
  
Diffuse bilateral parenchymal opacities compatible with known 
metastatic 
disease.  Given diffuse findings, this could easily obscure 
subtle underlying acute process.  No pleural effusion. 

___ CTA:
IMPRESSION:  
  
1.  No evidence of pulmonary embolism. 
2.  Diffuse metastatic disease within the chest similar to chest 
CT performed 
3 days earlier including widespread pulmonary nodules.  
Mass-effect of the 
mediastinal and hilar adenopathy on the adjacent vasculature and 
airways as on 
prior.  Slightly increased endoluminal debris within the central 
airways. 
3.  Significant interval progression of metastatic disease in 
the abdomen and 
pelvis since ___ with innumerable liver lesions, 
enlarged and 
increased lesions within bilateral kidneys, and increased 
retroperitoneal and 
pelvic lymphadenopathy. 
4.  No evidence of small-bowel obstruction. 
5.  Increased peripancreatic stranding and diffuse mesenteric 
stranding are 
new since ___.  This could be related to diffuse 
metastatic disease 
and congestion though correlation with amylase lipase is 
suggested. 
6.  New lytic osseous lesions as described above worrisome for 
metastatic 
disease. 

___ CXR:
IMPRESSION:  
  
NG tube tip is in the stomach.  ET tube tip is in appropriate 
position.  
Multifocal consolidations are similar to previous examination 
representing a 
combination of solid and ground-glass metastatic lesions. 

MICRO:
======
___ 1:06 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 11:07 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 11:07 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 11:02 pm SPUTUM      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 
__________________________________________________________
___ 9:51 pm BLOOD CULTURE      Source: Line-CVL. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:55 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:10 am BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
#___: Patient had code status to DNR/DNI on ___ after 
discussion with family. He continued to worsen over the course 
of the day (worsening bleeding in the lung, cardiopulmonary 
collapse, worsening acidosis). Agreed that he would want a 
limited trial of non-painful interventions (antibiotics, 
steroids) for now if they did not cause discomfort. Agreed that 
he would not want CPR. Avoid invasive procedures if they are 
uncomfortable and have low chance of success. he was maintained 
on the ventilator for some time but continued to worsen. The 
decision was made by his family for him to be extubated and 
changed to CMO. He expired shortly thereafter with his family at 
his bedside.

# Dyspnea
# Acute respiratory failure
His metastatic cancer was been progressive, but CT findings have 
been stable for the last 3 days at least. Mass effect on the 
airways is seen but is similar with likely some superimposed 
intraluminal debris. CTA ruled out PE. Consolidation consistent 
w/ bacterial PNA was not seen on CT, however it was possible 
that there is a small post-obstructive PNA brewing and he 
decompensated in the setting of such little lung reserve. WBC 
elevated but was on steroids. He had a fever to 100.6 in the ED 
but none they noticed at home. Flu PCR negative and the rest of 
the viral panel was pending. DDx also includes other viral lung 
infections, chemotherapy side effect. Fungal lung infection 
including aspergillis infection is also a concern. Additionally 
he sounded wheezy and may have a bronchospastic component to his 
presentation. Cortisol wnl, so less likely adrenal 
insufficiency. ET tube suctioning frank blood, concerning for 
ongoing hemorrhage from ___. He had worsening blood gases on 
the ventilator despite steroids and ABX. The decision was made 
to extubate him and transition to CMO.

# Lactic acidosis- Lactate elevated on arrival to 12.7, prior to 
an nebs, but started to downtrend and was about 7 after 5L 
fluids in the ED. It was possible that he had a component of 
poor perfusion or perhaps concentration of the lactate, because 
he was never hypotensive prior to the intubation. UOP was good 
and he was on a small amount of levophed. Albuterol nebs likely 
contributed to the uptrend in the lactate after coming to the 
unit. The majority of this lactate elevation was likely type B 
lactic acidosis from malignancy. The pathogenesis is not well 
understood; anaerobic metabolism due to dense clusters of tumor 
cells and/or metastatic replacement of the hepatic parenchyma 
has been proposed. Thiamine could have been contributing.

# Metastatic renal cell carcinoma on axitinib (D1 ___ and 
nivolumab (C1D1 ___. LDH continued to climb which is 
concerning for progressing malignancy. No palliative chemo 
options left. 
 
=================  
CHRONIC ISSUES  
=================  
# hypothyroidism- continued home levothyroxine  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Multivitamins W/minerals Liquid 15 mL PO DAILY 
3. PredniSONE 40 mg PO DAILY 
4. Codeine Sulfate ___ mg PO DAILY:PRN cough 
5. Dronabinol 5 mg PO BID 

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___